US07342014B2
N-[(1R*,2R*)-2-Aminocyclopentyl]-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxamide hydrochloride
The compound (175 mg) obtained in Referential Example 61 was dissolved in N,N-dimethylformamide (3 ml), and to the solution lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate (purity: 90%, 258 mg), 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride (252 mg) and 1-hydroxybenzo-triazole monohydrate (60 mg) were added. The mixture was stirred at room temperature for 2 days. The solvent was distilled off under reduced pressure using a pump, and methylene chloride and a saturated solution of sodium hydrogencarbonate were added to the residue to separate an organic layer. The resultant organic layer was washed with saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by flash column chromatography on silica gel (methylene chloride:methanol=47:3). The resultant pale yellow oil was dissolved in a ethanol solution (5 ml) of hydrochloric acid, and the solution was stirred at room temperature for 1 hour. Ethyl acetate was then added, and the solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue to collect precipitate formed by filtration, thereby obtaining the title compound (120 mg).

reactant | lithium 5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | 258 mg | CN1CC2=C(CC1)N=C(S2)C(=O)[O-].[Li+]
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide hydrochloride | 252 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzo-triazole monohydrate | 60 mg | O.ON1N=NC2=C1C=CC=C2
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | N-[(1R*,2R*)-2-Aminocyclopentyl]-5-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxamide hydrochloride | 120 mg | Cl.N[C@H]1[C@@H](CCC1)NC(=O)C=1SC=2CN(CCC2N1)C | InChI=1S/C13H20N4OS.ClH/c1-17-6-5-10-11(7-17)19-13(16-10)12(18)15-9-4-2-3-8(9)14;/h8-9H,2-7,14H2,1H3,(H,15,18);1H/t8-,9-;/m1./s1
